US08791255B2
The product is prepared according to the procedure described in example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 300 mg of 3-(1,1,2,2-tetrafluoroethoxy)aniline, and 300 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 2 ml of pyridine and 2 ml of N,N-dimethylformamide. 300 mg of 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3-(1,1,2,2-tetrafluoroethoxy)aniline | 300 mg | FC(C(F)F)(OC=1C=C(N)C=CC1)F | C8H7F4NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 300 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]acetamide | 300 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H18F4N4O4
